US05744466
(a) 5-benzyl-2-oxazolidinone
2,3-Epoxypropylbenzene (60 g, 448 mmol) and potassium cyanate (70 g, 364 mmol) were refluxed in DMF (600 ml) and water (300 ml) for 4 hours. The solvent was evaporated in vacuo and water added. The aqueous was then extracted with ethyl acetate, dried (Mg SO4) and evaporated. Recrystallization from ethyl acetate gave the product (28.2 g, 36%) Mpt 106°-107° C. MS (EI) 177 (M+), 133, 86.

reactant | 2,3-Epoxypropylbenzene | 448 mmol, 60 g | O1C(CC2=CC=CC=C2)C1 | C9H10O
reactant | potassium cyanate | 364 mmol, 70 g | [O-]C#N.[K+]
reactant | water | 300 ml | O | H2O
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
product | 5-benzyl-2-oxazolidinone | 28.2 g, 36% | C(C1=CC=CC=C1)C1CNC(O1)=O | C10H11NO2
